US05472964
Step 3: ((2,3-Dichlorofuro[3,2-b]pyridin-5-yl)methyl)triphenylphosphonium bromide
To a solution of 2,3-dichloro-5-methylfurano[3,2-b]pyridine (0.5 g, 2.47 mmol) in CCl4 (15 mL) was added N-bromosuccinimide (0.44 g, 2.47 mmol) and benzoyl peroxide (2 mg). The mixture was stirred and photolyzed using a sun lamp for 1 hr. The resulting mixture was cooled and filtered through celite. Evaporation of the filtrate gave an oil which was then dissolved in CH3CN (10 mL). Triphenylphosphine (1.29 g, 4.94 mmol) was added and the mixture was stirred at r.t. for 20 hr. The solvent was removed and the residue was triturated with ether to afford 1 g (77%) of the title compound after filtration.

reactant | 2,3-dichloro-5-methylfurano[3,2-b]pyridine | 2.47 mmol, 0.5 g | ClC1=C(C2=NC(=CC=C2O1)C)Cl | C8H5Cl2NO
reactant | N-bromosuccinimide | 2.47 mmol, 0.44 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Triphenylphosphine | 4.94 mmol, 1.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CCl4 | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH3CN | 10 mL | CC#N | C2H3N
catalyst | benzoyl peroxide | 2 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | ((2,3-Dichlorofuro[3,2-b]pyridin-5-yl)methyl)triphenylphosphonium bromide | 1 g, 77% | [Br-].ClC1=C(C2=NC(=CC=C2O1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl | InChI=1S/C26H19Cl2NOP.BrH/c27-24-25-23(30-26(24)28)17-16-19(29-25)18-31(20-10-4-1-5-11-20,21-12-6-2-7-13-21)22-14-8-3-9-15-22;/h1-17H,18H2;1H/q+1;/p-1
